US20010025047A1
Diethyl{[(1-phenyl-5-pyrazolyl) amino]methylene}malonate
A mixture of 15.9 g. (0.10 mole) of 1-phenyl-5-aminopyrazole and 21.6 g. (0.10 mole) of diethyl ethoxymethylenemalonate was heated at 115-1200 in an oil bath for 2 hours. After cooling, the crystalline mass was recrystallized from hot hexane containing 1% of ethanol. Cooling to room temperature and filtering gave 24.8 g. (75%) of off-white crystals, m.p. 96-97° C.

reactant | 1-phenyl-5-aminopyrazole | 0.10 mole | C1(=CC=CC=C1)N1N=CC=C1N | C9H9N3
reactant | diethyl ethoxymethylenemalonate | 0.10 mole | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl{[(1-phenyl-5-pyrazolyl) amino]methylene}malonate | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1C1=CC=CC=C1)=O | C17H19N3O4
